US08957065B2
Step 1) Preparation of 2-chloro-4-(3-nitrophenoxy)-furo[3,2-d]pyrimidine
6.4 g (33.9 mmol) of 2,4-dichlorofuro[3,2-d]pyrimidine (see: International Publication Number WO 2008073785 and WO 2008152394) was dissolved in 32 mL of methanol, and 5.7 g (40.6 mmol) of 3-nitrophenol and 12 mL (67.7 mmol) of diisopropylethylamine were added thereto, and stirred for 24 hours at room temperature. Upon the completion of the reaction, the resulting solid was filtered and dried over under a reduced pressure to obtain 6.3 g of the title compound (yield: 64%).

reactant | 2,4-dichlorofuro[3,2-d]pyrimidine | 33.9 mmol, 6.4 g | ClC=1N=C(C2=C(N1)C=CO2)Cl | C6H2Cl2N2O
reactant | 3-nitrophenol | 40.6 mmol, 5.7 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | diisopropylethylamine | 67.7 mmol, 12 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methanol | 32 mL | CO | CH4O
product | 2-chloro-4-(3-nitrophenoxy)-furo[3,2-d]pyrimidine | 6.3 g, yield: 64% | ClC=1N=C(C2=C(N1)C=CO2)OC2=CC(=CC=C2)[N+](=O)[O-] | C12H6ClN3O4
